Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Elevated TBili, alk phos, LFTs
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ y/o M with history of alcoholic cirrhosis, not currently
listed on transplant list, referred to ED for worsening labs c/f
decompensated cirrhosis. Reportedly had been abstinent for
alcohol x3 months, although now admitting to drinking a few
drinks recently, denying heavy use. Was found on routine clinic
appt yesterday to have labs c/f decompensation given hypoNa, 
___,
elevated bili. He was referred for further workup to elucidate
cause of decompensation with possible liver biopsy. RUQ/US
without PVT or gallstone. No ascites. No s/sx infection. ___ be
related to ongoing alcohol use.

In the ED initial vitals: 97.5; 85; 106/55; 18; 99%RA
- Exam notable for: scleral icterus, no asterixis
- Labs notable for:
CBC: WBC 8.4 Hgb 10.5 plt 230
Chem7: Na 129, K 4.6, Cl 92, Bicarb 21, BUN 23, Cr 1.5
LFTs: AST 75, ALT 42, APhos 843, TBili 3.1 Alb 2.4
Coags: ___ 13, INR 1.2
UA: Few bacteria, leuk est small, Nitrite neg, 5 hyaline casts

Urine culture pending
- Imaging notable for:
RUQUS:
1. Coarsened hepatic parenchyma. No focal liver lesion. Patent
portal vein with hepatopetal flow. No ascites. No splenomegaly.
2. Intraluminal gallbladder sludge without convincing wall
thickening or distention.
CXR:
IMPRESSION:
1. No focal consolidation.
2. Mediastinal contour is at the upper limits of normal, likely
projectional.

- Consults: GI-Hepatology

- Patient was given: Furosemide 80mg PO, thiamine, 
spironolactone
50mg PO

- ED Course:
REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative.

Upon transfer to floor, patient vitals were notable for temp
97.6, BP 113/71, HR 79. Reports feeling well - no SOB, CP, abd
pain, fevers, n/v, melena or bloody stools. Feels clear-headed,
no dizziness.

 
Past Medical History:
alcoholic cirrhosis decompensated by esophageal varices, portal
hypertensive gastropathy, ascites
fatty liver
elevated ferratin with hemochromatosis ruled out
adrenal gland lesion
HTN
___
 
Social History:
___
Family History:
Mother DIABETES ___ HEART DISEASE
Father DIABETES ___ HEART DISEASE
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
===============================
VITALS: temp 97.6, BP 113/71, HR 79
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, jaundice sclera b/l
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DICHARGE PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 1541)
    Temp: 97.9 (Tm 98.4), BP: 106/70 (100-117/63-71), HR: 73
(73-80), RR: 18 (___), O2 sat: 100%, O2 delivery: Ra, Wt: 
154.2
lb/69.95 kg  
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, jaundice sclera b/l
HEART: RRR, S1/S2, no murmurs, gallops, or rubs, jaundice under
tongue 
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
==================
___ 10:55PM URINE  HOURS-RANDOM
___ 10:55PM URINE  UHOLD-HOLD
___ 10:55PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 10:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM*
___ 10:55PM URINE  RBC-3* WBC-4 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 10:55PM URINE  HYALINE-5*
___ 10:55PM URINE  HYALINE-5*
___ 10:30PM   GLUCOSE-114* UREA N-23* CREAT-1.5* 
SODIUM-129* POTASSIUM-4.6 CHLORIDE-92* TOTAL CO2-21* ANION 
GAP-16
___ 10:30PM   GLUCOSE-114* UREA N-23* CREAT-1.5* 
SODIUM-129* POTASSIUM-4.6 CHLORIDE-92* TOTAL CO2-21* ANION 
GAP-16
___ 10:30PM   ALBUMIN-2.4*
___ 10:30PM   ALBUMIN-2.4*
___ 10:30PM   WBC-8.4 RBC-3.80* HGB-10.5* HCT-29.2* MCV-77* 
MCH-27.6 MCHC-36.0 RDW-22.9* RDWSD-58.2*
___ 10:30PM   NEUTS-57.3 ___ MONOS-11.4 EOS-0.4* 
BASOS-0.6 IM ___ AbsNeut-4.83 AbsLymp-2.50 AbsMono-0.96* 
AbsEos-0.03* AbsBaso-0.05
___ 11:00AM   GLUCOSE-111*
___ 11:00AM   GLUCOSE-111*
___ 11:00AM   UREA N-22* CREAT-1.3* SODIUM-129* 
POTASSIUM-5.1 CHLORIDE-90* TOTAL CO2-24 ANION GAP-15
___ 11:00AM   estGFR-Using this
___ 11:00AM   ALT(SGPT)-46* AST(SGOT)-83* ALK PHOS-876* TOT 
BILI-3.0*
___ 11:00AM   ALBUMIN-2.9*
___ 11:00AM   AMA-NEGATIVE
___ 11:00AM   IgM-449*
___ 11:00AM   PLT COUNT-247
___ 11:00AM   PLT COUNT-247

IMAGING:
========
RUQUS ___:
IMPRESSION: 
1. Coarsened hepatic parenchyma. No focal liver lesion. Patent 
portal vein 
with hepatopetal flow.  No ascites.  No splenomegaly. 
2. Intraluminal gallbladder sludge without convincing wall 
thickening or 
distention. 

CXR ___:
IMPRESSION: 
1. No focal consolidation. 
2. Mediastinal contour is at the upper limits of normal, likely 
projectional. 

MRI ___:
FINDINGS:  
  
Lower Thorax: Subsegmental atelectatic changes are seen in the 
right lung 
base. 
  
Liver: Slightly nodular contour consistent with the patient's 
history of 
cirrhosis.  Several scattered T2 hyperintense lesions are seen 
throughout the 
liver, the largest in segment 8 measuring 7 mm, compatible with 
cysts.  Small 
7 mm arterially enhancing lesion in segment 4A, with persistent 
enhancement on 
the later phases, likely flash filling hemangioma.  No 
suspicious liver 
lesion. 
  
Small amount of fluid surrounding the liver. 
  
The portal and hepatic veins are patent. 
  
Biliary: No intrahepatic or extrahepatic bile duct dilatation.  
No obstructing 
lesion is seen.  The gallbladder contains some debris layering 
dependently. 
  
Pancreas: Possible 5 mm T2 hyperintense lesion within the 
body/tail of the 
pancreas, with no enhancement.  Possible, could be followed up 
on next study. 
  
Spleen: The spleen is not enlarged and is homogeneous. 
  
Adrenal Glands: 2.5 cm x 2.0 cm adenoma in the medial limb of 
the left adrenal 
gland, demonstrating drop of signal on the out of phase.  The 
right adrenal 
gland is unremarkable. 
  
Kidneys: The visualized kidneys are unremarkable.  No 
hydronephrosis. 
  
Gastrointestinal Tract:  Unremarkable. 
  
Lymph Nodes: No size significant lymph nodes. 
  
Vasculature: Unremarkable. 
  
Osseous and Soft Tissue Structures: There is evidence of 
gynecomastia.  No 
suspicious bone lesion. 
  
IMPRESSION:  
1.  The gallbladder contains some debris/sludge or stones 
layering 
dependently.  No intrahepatic or extrahepatic bile duct 
dilatation. No 
obstructing lesion is seen. 
2.  Slightly nodular liver contour consistent with the patient's 
history of 
cirrhosis.  No suspicious liver lesion. 
3.  Small amount ascites. 
4.  Incidental findings as described above. 

MICROBIOLOGY:
=============
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 

DISCHARGE LABS:
===============
___ 05:41AM BLOOD WBC-5.9 RBC-2.88* Hgb-8.3* Hct-23.7* 
MCV-82 MCH-28.8 MCHC-35.0 RDW-23.8* RDWSD-67.7* Plt ___
___ 05:41AM BLOOD ___ PTT-48.0* ___
___ 05:41AM BLOOD Glucose-85 UreaN-17 Creat-1.0 Na-137 
K-4.3 Cl-102 HCO3-21* AnGap-14
___ 05:41AM BLOOD ALT-21 AST-35 AlkPhos-470* TotBili-1.8*
___ 05:41AM BLOOD Albumin-2.7* Calcium-8.5 Phos-3.0 Mg-1.9
___ 05:41AM BLOOD AMA-NEGATIVE
___ 05:41AM BLOOD IgA-566* IgM-309*
 
Brief Hospital Course:
ASSESSMENT AND PLAN: 
___ y/o M with history of alcoholic cirrhosis, not currently
listed on transplant list, referred to ED for worsening labs c/f
decompensated cirrhosis.
=============================================
ACUTE CONCERNS

#Decompensated alcoholic cirrhosis:
#Cholestasis: Patient presented with acute increase in bilirubin
with ___, concerning for decompensated cirrhosis vs. biliary
obstruction. Presents with recent EtOH use, No ascites. No e/o
obstruction on RUQUS that would otherwise be concerning for
biliary tract disease or PVT. No recent medication changes, or
Tylenol use, etc that would suggest direct hepatotoxicity.
Infectious work up so far unrevealing and no tappable pocket to
rule out SBP. MELD 23 on admission and discharge MELD 10. MRCP 
revealed no obstruction, but evidence of biliary sludge and 
stones. Labs downtrended and he remained stable. No antibiotics 
were given. No medication for hepatic encephalopathy. Due to 
biliary sludge will start ursodiol 300mg PO BID. 

___ - Cr 1.5 up from baseline 1.0-1.3, likely pre-renal as
patient endorses overall poor po intake and weight loss. 
Resolved
to baseline, Cr 1.0 on discharge.

#Hyponatremia: Na 129 on admission from prior i/s/o hepatorenal 
syndrome given recent rise in Cr. Held home diuretics. Na on 
discharge 137. Diuretics resumed on discharge

CHRONIC CONCERNS

#Alcohol Use Disorder- Patient had been sober but has relapsed
with last drink ~1 week prior to admission. Continued folate, 
MVI, and thiamine. No signs or symptoms of EtOH withdrawl. 

TRANSITIONAL ISSUES:
=====================
[] Labs on ___ - Chem 10, LFTs 
[] New medication - ursodiol 300mg PO BID
[] Should continue home Mg for cramping
[] f/u AMA and IgM and IgA results
[] Incidental findings on MRI:
---Pancreas: Possible 5 mm T2 hyperintense lesion within the 
body/tail of the pancreas, with no enhancement. 
---Adrenal Glands: 2.5 cm x 2.0 cm adenoma (previously known) in 
the medial limb of the left adrenal gland, demonstrating drop of 
signal on the out of phase. The right adrenal gland is 
unremarkable.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Thiamine 100 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Furosemide 80 mg PO DAILY 
4. Potassium Chloride 20 mEq PO DAILY 
5. Spironolactone 50 mg PO DAILY 
6. Vitamin D ___ UNIT PO 1X/WEEK (SA) 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  
2.  Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  FoLIC Acid 1 mg PO DAILY  
4.  Furosemide 80 mg PO DAILY  
5.  Potassium Chloride 20 mEq PO DAILY  
6.  Spironolactone 50 mg PO DAILY  
7.  Thiamine 100 mg PO DAILY  
8.  Vitamin D ___ UNIT PO 1X/WEEK (SA)  
9.Outpatient Lab Work
___.60 (cirrhosis), N17.9 (___)
please draw chem 10 and LFTs on ___
please fax results to Dr. ___ ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ALCOHOLIC CIRRHOSIS  decompensated by esophageal varices, portal 
hypertensive gastropathy, ascites 
Bilirubinemia 
Elevated alkaline phosphatase 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear MR. ___,  
 You were admitted to the hospital because of your liver disease 
and elevated bilirubin levels.
 
WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - We did imaging to evaluate your biliary system which was 
normal.
 - You improved and were ready to leave the hospital.  
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below)  
 - Keep your follow up appointments with your doctors  
 - Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds  
 - Please stick to a low salt diet and monitor your fluid intake 
 
 - If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

 It was a pleasure participating in your care. We wish you the 
best!  
 - Your ___ Care Team  
 
Followup Instructions:
___